US04792563
Stage 7: 1,1-Difluoro-2,2-dimethyl-3-[3-(N-phenyl-N-acetylamino)-4-fluorobenzyloxy]propane
A mixture of 1,1-difluoro-2,2-dimethyl-3-(3-bromo-4-fluorobenzyloxy)propane (1.5 g), acetanilide (0.716 g), cuprous chloride (0.1 g); potassium carbonate (0.67 g), dry N,N-dimethylformamide (10 cm3) and tri[2-(2-methoxyethoxy)ethyl]amine (catalytic quantity) was heated at 158° C. for 4 days under an atmosphere of nitrogen; the mixture was then stood at the ambient temperature for 1 week. The combined organic extracts were washed with water and brine and dried over anhydrous magnesium sulphate. Evaporation of the solvent under reduced pressure gave a dark oil which was subjected to flash column chromatography on a silica gel support, eluting firstly with petroleum ether (boiling range 40°-6° C.) containing 2% by volume ethyl acetate (to give starting materials and a small amount of the deacylated product) and secondly with petroleum ether (boiling range 40°-60° C.) containing 50% by volume ethyl acetate, to give the title compound as a dark oil (0.68 g).

reactant | 1,1-difluoro-2,2-dimethyl-3-(3-bromo-4-fluorobenzyloxy)propane | 1.5 g | FC(C(COCC1=CC(=C(C=C1)F)Br)(C)C)F | C12H14BrF3O
reactant | acetanilide | 0.716 g | C(C)(=O)NC1=CC=CC=C1 | C8H9NO
reactant | potassium carbonate | 0.67 g | C([O-])([O-])=O.[K+].[K+]
reactant | tri[2-(2-methoxyethoxy)ethyl]amine | COCCOCCN(CCOCCOC)CCOCCOC | C15H33NO6
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 10 cm3 | CN(C=O)C | C3H7NO
product | 1,1-Difluoro-2,2-dimethyl-3-[3-(N-phenyl-N-acetylamino)-4-fluorobenzyloxy]propane | 0.68 g | FC(C(COCC1=CC(=C(C=C1)F)N(C(C)=O)C1=CC=CC=C1)(C)C)F | C20H22F3NO2
